US07041700B2
(3R*,4R*)-3,4-epoxy-6-ethyl-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran
To a solution (2 mL) of ethyl acetate containing 100 mg (0.53 mmol) of 6-ethyl-2,2-dimethyl-2H-1-benzopyran (synthesized according to the method described in Jananese Patent Application Laid-open No. Sho 62-273972), salen manganese complex (17 mg, 0.016 mmol), 4-(3-phenylpropyl)-pyridineoxide) (12 mg, 0.053 mmol) and aqueous sodium hypochlorite solution (0.96 g, 1.14 Kg/mol, 1.1 mmol) were added at room temperature, and stirred for two hours at room temperature. After Celite filtration upon addition of water, organic phase was separated, washed with aqueous saturated sodium chloride solution, and dried over anhydride sodium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (chloroform) to obtain 75 mg of the intended compound in brown oily substance (Yield 69%).

reactant | ethyl acetate | 0.53 mmol, 2 mL, 100 mg | C(C)(=O)OCC | C4H8O2
reactant | 6-ethyl-2,2-dimethyl-2H-1-benzopyran | C(C)C=1C=CC2=C(C=CC(O2)(C)C)C1 | C13H16O
reactant | 4-(3-phenylpropyl)-pyridineoxide | C1(=CC=CC=C1)CCCC1=CC=[N+](C=C1)[O-] | C14H15NO
reactant | sodium hypochlorite | 1.1 mmol, 0.96 g | Cl[O-].[Na+]
product | (3R*,4R*)-3,4-epoxy-6-ethyl-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran | 75 mg, Yield 69% | O1[C@H]2C(OC3=C([C@H]21)C=C(C=C3)CC)(C)C | C13H16O2
